*********************************************************************************
*										*
*	    ,o888888o.    888888888888.   88888888888888 88888888888888		*
*	   8888     `88.  888888    `88.  888888         888888         	*
*	,888888       `8. 888888     `88  888888         888888         	*
*	8888888           888888     ,88  888888         888888         	*
*	8888888           888888.   ,88'  88888888888888 88888888888888 	*
*	8888888           888888888888'   888888         888888         	*
*	8888888           888888`8b       888888         888888         	*
*	`888888       .8' 888888 `8b.     888888         888888         	*
*	   8888     ,88'  888888   `8b.   888888         888888         	*
*	    `8888888P'    888888     `88. 88888888888888 88888888888888		*
*										*
*********************************************************************************
*******************************************************************************
**	DISCLAIMER
*******************************************************************************
**	This model is provided as is, where is, and with no warranty of any kind
**	either expressed or implied, including but not limited to any implied 
**	warranties of merchantability and fitness for a particular purpose.
*******************************************************************************

***********************************************************
****	Cree SiC MOSFET C3M0120090J Spice Library 
****	Version 2.0 Date: 11-27-2017
****	Version 3.0 Date: 01-22-2018
****	Version 4.0 Date: 06-19-2018
***********************************************************
****	Revision record
****	Version 1	Initial Release
****	Version 2	Include Tc at gmos subcircuit
****	Version 3	This spice model is compatible to both Ltspice and Orcad Pspsice
****	Version 4	Update the thermal RC model
*********************************************************************************
****Parasitics Included
****Tj = Junction Temperature
****Tc = Case Temperature
****D = Drain
****G = Gate
****S1 = Kelvin Source
****S2,S3,S4,S5,S6 = Power Source
***********************************************************

.subckt C3M0120090J d g s1 s2 s3 s4 s5 s6 Tj Tc 

xgmos	d3 d1 g1 s Tj Tc gmos_C3M0120090J


Rg1		g		ga		19.29m
RS1		s1		s1a		8.479m
RS2		s2		s2a		0.4616m
RS3		s3		s3a		0.4616m
RS4		s4		s4a		0.4616m
RS5		s5		s5a		0.4616m
RS6		s6		s6a		0.4616m
Rd		d		da		0.01166m

Lg1		ga		g3		7.059n
Ls1		s1a		s		7.532n
Ls2		s2a		s_c		2.5n
Ls3		s3a		s_c		2.5n
Ls4		s4a		s_c		2.5n
Ls5		s5a		s_c		2.5n
Ls6		s6a		s_c		2.5n
Ld 		da		d3      	1.495n

RPg   ga		g3		500
RP1   s1a		s		100
RP2   s2a		s_c		100
RP3   s3a		s_c		100
RP4   s4a		s_c		100
RP5   s5a		s_c		100
RP6   s6a		s_c		100
RPd   da		d3		1

R_g 		g1	g2	16
R_S		S_C	S_d	3.875m
L_s		S_d	S	2.742n
*R_PLS		S_d	s	100


G1		d2	d1      Value {V(d1,s)}
R_A		d2	d1	1E6
vgate_s		g3	g2	0
vdrain_s	d3	d2	0
Gheat		0	Tj	value {abs((V(d,s)*I(Vdrain_s)))+abs((V(g1,g2)*I(Vgate_s)))}
xCGD		d2	g1	cgdmos_C3M0120090J 
CGS		g1	s	347p
D1		s	d2	bodydiode_C3M0120090J

R0 N1 Tj 0.09
R1 N2 N1 0.73
R2 N3 N2 0.35
R3 Tc N3 0.33
C0 Tj 0 0.4m
C1 N1 0 1.7m
C2 N2 0 12.8m
C3 N3 0 248.5m

.ends C3M0120090J

*****************************************

.subckt gmos_C3M0120090J d3 d1 g1 s Tj Tc

e3		NET3	0	Value {10u*(V(Tj)**2)-0.0068*V(Tj)+2.3439}
R_C		NET3	0 	1E6

e2		NET2	0	Value {-0.005*v(g2,s)+0.165}
R_B		NET2	0 	1E6

e1		NET1	0	Value {-0.1717*v(g2,s)+3.5755}
R_a		NET1	0 	1E6

e4		NET4	0	value {
+				if(V(Tj)>50,
+					0.05 
+					,
+					0.32
+					)
+					}    
R_d		NET4	0 	1E6
e5		NET5	0	value {
+				if(V(g2,s)>13,
+					-1.565u*(V(Tj)**2)-137u*v(Tj)+0.1645   
+					,
+					0
+					)
+					}
R_e		NET5	0 	1E6

e6		NET6	0	value {
+				if(V(g2,s)>11 & V(g2,s)<=13,
+					-1.67u*(V(Tj)**2)-32.646u*v(Tj)+0.152
+					,
+					0
+					)
+					}
R_f		NET6	0 	1E6

e7		NET7	0	value {
+				if(V(g2,s)>9 & V(g2,s)<=11,
+					-1.88u*(V(Tj)**2)+136.512u*v(Tj)+0.138
+					,
+					0
+					)
+					}
R_g		NET7	0 	1E6

e8		NET8	0	value {
+				if(V(g2,s)>7 & V(g2,s)<=9,
+					-1.8u*(V(Tj)**2)+268.975u*v(Tj)+0.117   
+					,
+					0
+					)
+					}
R_h		NET8	0 	1E6

e9		NET9	0	value {
+				if(V(g2,s)>1 & V(g2,s)<=7,
+					-0.66u*(V(Tj)**2)+356.28u*v(Tj)+83m   
+					,
+					0
+					)
+					}
R_j		NET9	0 	1E6



.param p8  = 0.0011
.param p9  = -0.102
.param p11 = -8
.param p12 = 19

R100 g2 s	1E6
E100 g2 s 	value {limit(V(g1,s),p11,p12)} 


********************************
G1 d1 s value {
+	if(V(s,d3)<0,
+		0
+		,
+		if (V(g2,s)<V(NET3,0) ,
+		-((0.035)*(v(g2,s)-V(NET3,0)))*(-(1+p8*v(s,d3))*0.008)*(((log(1+exp(v(g2,s)-V(NET3,0))))**2)-
+		((log(1+exp(v(g2,s)-V(NET3,0)-(0.854*v(s,d3)))))**2))
+		,
+		-(((v(NET5,0)+v(NET6,0)+v(NET7,0)+v(NET8,0)+v(NET9,0))*(v(g2,s)-V(NET3,0)))+v(NET4,0))*(1+p8*v(s,d3))*
+		(((log(1+exp(v(g2,s)-V(NET3,0))))**2)-((log(1+exp(v(g2,s)-V(NET3,0)-
+		(V(NET2,0)*v(s,d3)*((1+exp(p9*v(s,d3)))**v(NET1,0))))))**2))
+		)
+			)
+			}
G2 d1 s value {
+	if(V(d3,s)<0,
+		0
+		,
+		if (V(g2,s)<V(NET3,0) ,
+		((0.035)*(v(g2,s)-V(NET3,0)))*(-(1+p8*v(d3,s))*0.008)*(((log(1+exp(v(g2,s)-V(NET3,0))))**2)-
+		((log(1+exp(v(g2,s)-V(NET3,0)-(0.854*v(d3,s)))))**2))
+		,
+		(((v(NET5,0)+v(NET6,0)+v(NET7,0)+v(NET8,0)+v(NET9,0))*(v(g2,s)-V(NET3,0))))*(1+p8*v(d3,s))*
+		(((log(1+exp(v(g2,s)-V(NET3,0))))**2)-((log(1+exp(v(g2,s)-V(NET3,0)-
+		(V(NET2,0)*v(d3,s)*((1+exp(p9*v(d3,s)))**v(NET1,0))))))**2))
+		)
+			)
+			}
.ends gmos_C3M0120090J

****************************************
.model bodydiode_C3M0120090J d(is=38.9n cjo=700p bv=1160 m=0.65 EG=5.02827 vj=5 n=7.65 
+	rs=0.092 trs1=-0.0016  trs2=1.003u Tnom=25
+	tt=3n ibv=500u Xti=0.13 level=1)
****************************************

.subckt cgdmos_C3M0120090J d2 g1
.param k1=140p	
.param k2=0.4		
.param ka=30	
.param kb=0.3	
.param kc=6.5277	
G11 g1 d1 value {
+		k1*(
+		(1+(limit(v(d1,g1),0,600))*(1+ka*(1+TANH(kb*V(d1,g1)-kc))/2))**-k2
+		)*ddt(v(g1,d1))
+			}
R_CGD d1 d2 1e-4
.ends cgdmos_C3M0120090J











